US04016165
To a solution of 27.1 g. (0.1 mole) of 7-chloro-1,3 -dihydro-5-phenyl-2H-1,4-benzodiazepine-2-one in 300 ml. of dry dimethylformamide was added 4.6 g. (0.11 mole) of 57% sodium hydride in mineral oil, under nitrogen and with continuous stirring. After stirring one hour at room temperature, 25.4 g. (0.15 mol) of redistilled bromoacetaldehyde dimethylacetal in 10 ml. of dimethylformamide was added and the reaction mixture is kept at 100° C. with stirring during 16 hours. The mixture was then concentrated in vacuo to one-half the volume, well shaken with ice water and extracted with methylene chloride. The extract was washed with water, dried over Na2SO4 and evaporated at 25° C. and 0.2 mm.Hg pressure giving a brown oil which was crystallized from 2-propanol yielding 26.2 g. (73% of light brown crystals m.p. 115-117° C. A sample chromatographed on silica gel, eluted with 2% methanol-98% chloroform, evaporated in vacuo, and crystallized from 2-propanol gave 7-chloro -1,3-dihydro-1-(2,2-dimethoxyethyl)-5-phenyl-2H-1,4 -benzodiazepine-2-one of melting point 117° to 119° C.

reactant | 7-chloro-1,3 -dihydro-5-phenyl-2H-1,4-benzodiazepine-2-one | 0.1 mole | ClC=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H11ClN2O
reactant | sodium hydride | 0.11 mole | [H-].[Na+]
reactant | bromoacetaldehyde dimethylacetal | 0.15 mol | COC(CBr)OC | C4H9BrO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-chloro -1,3-dihydro-1-(2,2-dimethoxyethyl)-5-phenyl-2H-1,4 -benzodiazepine-2-one | ClC=1C=CC2=C(C(=NCC(N2CC(OC)OC)=O)C2=CC=CC=C2)C1 | C19H19ClN2O3
